US05101068
To a solution of Boc-ValCH2F (0.48 g, 2.06 mmol) in ether (10 mL) was added a saturated solution of HCl in ether (25 mL). The mixture was stirred for 30 minutes at room temperature. The solvent was evaporated under reduced pressure at room temperature. The residue was quickly triturated with ether (2×30 mL) and then was pumped dry, giving 0.24 g of ValCH2F hydrochloride. Boc-Ala-Ala-ProOH (Enzyme Systems Products, 0.503 g, 1.41 mmol) was dissolved in THF (5 mL) and was cooled to -20° C. NMM (0.155 mL, 1.41 mmol) was added, followed by IBCF (0.183 mL, 1.41 mmol) After 5 minutes, this mixture was charged with a solution of ValCH2F hydrochloride (0.24 g, 1.41 mmol) in DMF (2 mL). A second equivalent of NMM (0.155 mL, 1.41 mmol) was added. The mixture was stirred at -15° C. for 15 minutes. 1 molar HCl (15 mL) was added. The product was extracted with ethyl acetate (2×15 mL). The combined extracts were washed with saturated aqueous NaHCO3 (15 mL), brine (15 mL), dried over MgSO4, filtered, and evaporated to dryness. The residue was slowly crystallized at -20° C. from CH2Cl2 /hexane, giving 0.47 g (47% from Boc-ValCH2F of Boc-Ala-Ala-Pro-ValCH2F.

reactant | Boc-ValCH2F | 2.06 mmol, 0.48 g | N([C@@H](C(C)C)C(=O)CF)C(=O)OC(C)(C)C | C11H20FNO3
reactant | HCl | Cl | ClH
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
product | ValCH2F hydrochloride | 0.24 g | N[C@@H](C(C)C)C(=O)CF.Cl | InChI=1S/C6H12FNO.ClH/c1-4(2)6(8)5(9)3-7;/h4,6H,3,8H2,1-2H3;1H/t6-;/m0./s1
